US05424443
2,4-Dichloro-6-fluoro-7-isocyanatobenzothiazole
31 ml of a 20% solution of phosgene in toluene was added, dropwise, at room temperature to a suspension of 5.1 g 7-amino-2,4-dichloro-6-fluorobenzothiazole hydrochloride in 30 ml abs. toluene. The mixture was heated for 8 hours at 100° C. and the toluene removed in vacuo. The residue was triturated with hexane. Yield: 4.8 g=90% of theory m.p.: 95°-98° C.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 7-amino-2,4-dichloro-6-fluorobenzothiazole hydrochloride | 5.1 g | Cl.NC1=C(C=C(C=2N=C(SC21)Cl)Cl)F
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,4-Dichloro-6-fluoro-7-isocyanatobenzothiazole | ClC=1SC2=C(N1)C(=CC(=C2N=C=O)F)Cl | C8HCl2FN2OS
